US08686150B2
(a) 6-(4-Hydroxy-phenyl)-3-methyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid methyl ester
A mixture of 3-amino-5-methylpyrazole (50.0 g), pyruvic acid methyl ester (58.4 g) and 4-hydroxybenzaldehyde (62.9 mL) in acetic acid/methanol (v/v=1/1, 300 mL) was stirred at 75° C. for 15 h, cooled to r.t.; and the precipitate formed was isolated by suction filtration and dried in vacuo at 60° C. 15 g (10%) of the title compound were obtained as pale yellow solid.

reactant | 3-amino-5-methylpyrazole | 50.0 g | NC1=NNC(=C1)C | C4H7N3
reactant | pyruvic acid methyl ester | 58.4 g | COC(C(=O)C)=O | C4H6O3
reactant | 4-hydroxybenzaldehyde | 62.9 mL | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | acetic acid methanol | 300 mL | C(C)(=O)O.CO
product | 6-(4-Hydroxy-phenyl)-3-methyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid methyl ester | 15 g, 10% | COC(=O)C=1C2=C(N=C(C1)C1=CC=C(C=C1)O)NN=C2C | C15H13N3O3
